US06465472B1
2-Dimethylaminomethyl-6,7-methylenedioxy-4-(3,4-methylenedioxyphenyl)quinazoline-3-oxide
To a suspension of 2-chloromethyl-6,7-methylenedioxy-4-(3,4-methylenedioxyphenyl)quinazoline-3-oxide (200 mg, 0.55 mmol), in THF (6 mL), was added dimethylamine (2M in THF 2 mL, 4 mmol). The mixture as stirred at 65° C. for 2 h. After cooling, the solvent was evaporated and the residue was purified by column chromatography on silica gel (hexane:acetone 4:1); mp 205-210° C. 1H NMR (CDCl3) 7.41 (s, 1H), 6.90-7.06 (m, 4H), 6.78 (s, 1H) 6.11 (s, 2H), 6.08 (s, 2H), 4.05 (s, 2H), 2.52 (s, 6H).

reactant | 2-chloromethyl-6,7-methylenedioxy-4-(3,4-methylenedioxyphenyl)quinazoline-3-oxide | 0.55 mmol, 200 mg | ClCC1=NC2=CC3=C(C=C2C(=[N+]1[O-])C1=CC2=C(C=C1)OCO2)OCO3 | C17H11ClN2O5
reactant | dimethylamine | 4 mmol, 2M, 2 mL | CNC | C2H7N
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | 2-Dimethylaminomethyl-6,7-methylenedioxy-4-(3,4-methylenedioxyphenyl)quinazoline-3-oxide | CN(C)CC1=NC2=CC3=C(C=C2C(=[N+]1[O-])C1=CC2=C(C=C1)OCO2)OCO3 | C19H17N3O5
